US06972295B2
Step D 5-Methyl-3-phenyl-2-hexanol
A solution of 66 mg (0.345 mmol) of 5-methyl-3-phenyl-2-hexanone in 1 mL MeOH was treated with 16 mg sodium borohydride. After 1.5 h, the reaction was quenched with 1.2 N HCl and concentrated. The residue was partitioned between EtOAc and water. The organic layer was washed with brine, dried and concentrated to yield the crude title compound which was used without purification. 1H NMR: (500 MHz, CDCl3): δ 0.88 (2d, 6H), 1.0-1.8 (m, 4H), 1.2 (d, 3H), 2.64 (m, 1H), 3.9 (m, 1H), 7.2-7.4 (m, 5H).

reactant | 5-methyl-3-phenyl-2-hexanone | 0.345 mmol, 66 mg | CC(CC(C(C)=O)C1=CC=CC=C1)C | C13H18O
reactant | sodium borohydride | 16 mg | [BH4-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 5-Methyl-3-phenyl-2-hexanol | CC(CC(C(C)O)C1=CC=CC=C1)C | C13H20O
